US05952328
3,4-Dihydro-4-propyl-2H-1,2,4-benzothiadiazine-3-carboxylic acid 1,1-dioxide
This compound was prepared according to the method of Close et. al., J. Org. Chem., 1961, 26, 3423-3433, incorporated by reference herein in its entirety. Thus, a solution of methyl dimethoxyacetate (3.6 g, 27.3 mmol) in water (50 l) was refluxed for 2.5 hours. A stillhead was attached and the methanol so generated was allowed to distill off (a total of 10 ml of liquid was collected, of which 5 ml was replenished with water). To the hot solution was added 2-(propylamino)benzenesulfonamide (4.5 g, 21.0 mmol) (prepared according to the procedure of Biressi et. al., Farmeco. Ed. Sci. (It.), 1969, 24, 199-220, incorporated by reference herein in its entirety) and 1,4-dioxane (5 ml, to give a homogeneous solution) and reflux was continued for 1.5 hours. The mixture was adjusted to pH 3 (2N NaOH), extracted with ethyl acetate and the organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to give 4.8 g crude product which was recrystallized (ethyl acetate/hexanes) to give 2.5 g (44%) of the title compound as a white solid; NMR (DMSO-d6) δ 0.85 (t, J=7 Hz, 3H), 1.47-1.57 (m, 2H), 2.94-3.04 (m, 1H), 3.38 (br, 1H), 3.40-3.46 (m, 1H), 5.27 (d, J=6 Hz, 1H), 6.70 (t, J=7 Hz, 1H), 6.84 (d, J=7 Hz, 1H), 7.36 (t, J=7 Hz), 7.43 (d, J=7 Hz, 1H), 8.44 (d, J=7 Hz, 1H), 13.04 (br, 1H); MS: 269 m/z (M-H)- ; Anal. Calc'd for C11H14N2O4S: C, 48.88; H, 5.23; N, 10.37; S, 11.84; Found: C, 49.17; H, 5.21; N, 10.27; S, 11.54.

reactant | methyl dimethoxyacetate | 27.3 mmol, 3.6 g | COC(C(=O)OC)OC | C5H10O4
reactant | methanol | CO | CH4O
reactant | 2-(propylamino)benzenesulfonamide | 21.0 mmol, 4.5 g | C(CC)NC1=C(C=CC=C1)S(=O)(=O)N | C9H14N2O2S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water | 50 l | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3,4-Dihydro-4-propyl-2H-1,2,4-benzothiadiazine-3-carboxylic acid 1,1-dioxide | 2.5 g, 44% | C(CC)N1C(NS(C2=C1C=CC=C2)(=O)=O)C(=O)O | C11H14N2O4S
